US09382234B2
A mixture of methyl 5-chloro-3-hydroxy-2-methylbenzoate (500 mg, 2.492 mmol), tert-butyl 4-hydroxypiperidine-1-carboxylate (752 mg, 3.74 mmol) and triphenylphosphine (1307 mg, 4.98 mmol), stirred in THF (10 mL) until completely dissolved, then DIAD (1.530 mL, 7.48 mmol) was slowly added dropwise via syringe over 5 minutes. The reaction heated at 55° C. for 4 h under nitrogen. The reaction was cooled to room temperature and concentrated in vacuo. The orange oil residue was purified by flash column chromatography (30% EtOAc/hexanes). The desired fractions were combined, concentrated, then triturated with EtOAc to give tert-butyl 4-(5-chloro-3-(methoxycarbonyl)-2-methylphenoxy)piperidine-1-carboxylate (0.765 g, 1.99 mmol, 80% yield. 1H NMR (400 MHz, DMSO-d6) δ 1.10-1.26 (m, 1 H) 1.41 (s, 9 H) 1.49-1.63 (m, 2 H) 1.79-1.92 (m, 2 H) 2.28 (s, 3 H) 3.15-3.30 (m, 2 H) 3.51-3.66 (m, 2 H) 3.83 (s, 3 H) 4.63-4.81 (m, 1 H) 7.31 (d, J=2.02 Hz, 1 H) 7.37 (d, J=2.02 Hz, 1 H) MS (ES) [M+H]+ 384.1.

reactant | methyl 5-chloro-3-hydroxy-2-methylbenzoate | 2.492 mmol, 500 mg | ClC=1C=C(C(=C(C(=O)OC)C1)C)O | C9H9ClO3
reactant | tert-butyl 4-hydroxypiperidine-1-carboxylate | 3.74 mmol, 752 mg | OC1CCN(CC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | triphenylphosphine | 4.98 mmol, 1307 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 7.48 mmol, 1.530 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-(5-chloro-3-(methoxycarbonyl)-2-methylphenoxy)piperidine-1-carboxylate | 80% yield | ClC=1C=C(C(=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C1)C)C(=O)OC | C19H26ClNO5
